### PR TITLE
chore: adjust `BEq` classes

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR moves `ReflBEq` to `Init.Core` and changes `LawfulBEq` to extend `ReflBEq`.

**BREAKING CHANGES:**
- The `refl` field of `ReflBEq` has been renamed to `rfl` to match `LawfulBEq`
- `LawfulBEq` extends `ReflBEq`, so in particular `LawfulBEq.rfl` is no longer valid

### CODE REVIEW

File: src/Init/SimpLemmas.lean [hunk 1]
```diff
@@ -287,8 +287,8 @@ theorem not_decide_eq_true [h : Decidable p] : ((!decide p) = true) = ¬ p := by
 @[simp] theorem cond_true (a b : α) : cond true a b = a := rfl
 @[simp] theorem cond_false (a b : α) : cond false a b = b := rfl
 
-@[simp] theorem beq_self_eq_true [BEq α] [LawfulBEq α] (a : α) : (a == a) = true := LawfulBEq.rfl
-theorem beq_self_eq_true' [DecidableEq α] (a : α) : (a == a) = true := by simp
+theorem beq_self_eq_true [BEq α] [ReflBEq α] (a : α) : (a == a) = true := BEq.rfl
```
Comment (TwoFX) [inline src/Init/SimpLemmas.lean:290]: Why did you decide to remove this `simp` annotation?

**Review by TwoFX — COMMENTED** [review]
How about you provide a lemma `LawfulBEq.rfl` with a deprecation pointing to `BEq.rfl`?

**Comment by Rob23oba** [comment]
I can't add `LawfulBEq.rfl`, it will complain about that "structure 'LawfulBEq' has field 'rfl'".

File: src/Init/SimpLemmas.lean (hunk 1 above)
Comment (TwoFX) [reply src/Init/SimpLemmas.lean:290]: Ah, right. I guess in this case you could even deprecate the two variants of `beq_self_eq_true` in favor of `BEq.refl`.

File: src/Init/Data/List/Erase.lean [hunk 2]
```diff
@@ -417,6 +417,11 @@ theorem erase_append [LawfulBEq α] {a : α} {l₁ l₂ : List α} :
     (l₁ ++ l₂).erase a = if a ∈ l₁ then l₁.erase a ++ l₂ else l₁ ++ l₂.erase a := by
   simp [erase_eq_eraseP, eraseP_append]
 
+theorem erase_replicate' {n : Nat} {a b : α} :
```
Comment (TwoFX) [inline src/Init/Data/List/Erase.lean:420]: Is there a specific reason why you added this?

File: src/Init/Core.lean [hunk 3]
```diff
@@ -758,6 +770,15 @@ instance [DecidableEq α] : LawfulBEq α where
   eq_of_beq := of_decide_eq_true
   rfl := of_decide_eq_self_eq_true _
 
+-- `Classical.propDecidable` should be preferred over
+-- `instDecidableEqOfLawfulBEq (instLawfulBEq Classical.propDecidable)`
+-- (although the instance synthesizer could perhaps improve for this)
+-- `classical` produces `Classical.propDecidable` with priority `10`, so we need to be lower
+instance (priority := 5) [BEq α] [LawfulBEq α] : DecidableEq α := fun x y =>
```
Comment (TwoFX) [inline src/Init/Core.lean:777]: I don't think this should be an instance at all. I think it is good to have this as a definition and if users want this for their type they should explicitly activate it.

File: src/Init/Data/List/Erase.lean (hunk 2 above)
Comment (Rob23oba) [reply src/Init/Data/List/Erase.lean:420]: Not really apart from the fact that it's the same statement as below but with less instance assumptions. I can remove it again.

File: src/Init/Core.lean (hunk 3 above)
Comment (TwoFX) [reply src/Init/Core.lean:777]: I would much prefer to err on the safe side here and add the instance in the proofs where it is needed (as mathlib does with its `classical` machinery).,

(Note: I am very much in favor of your changes to the instances around decidability of membership)

**Comment by Rob23oba** [comment]
awaiting-review

File: src/Init/Data/List/Erase.lean (hunk 2 above)
Comment (TwoFX) [reply src/Init/Data/List/Erase.lean:420]: I see. Looks like there are a lot of needlessly restrictive typeclass assumptions in this file because `erase_eq_eraseP` takes `LawfulBEq` instead of `EquivBEq`. But that can be fixed at another time.

File: src/Init/Core.lean (hunk 3 above)
Comment (Rob23oba) [reply src/Init/Core.lean:777]: Okay, in that case I'm going to turn it into a `def` for now, the only thing I fear is that the new decidable instance for list and array membership is going to cause problems... I'll just test and see what the impact is.

**Comment by Rob23oba** [comment]
Okay, there were too many instances where I would've needed to add `have : DecidableEq α := instDecidableEqOfLawfulBEq` in the proof -- for now I'll revert most of the changes to decidability. For future reference though, a1f5e679f22f80b26a32f1b9336c1bb543c82cbb is the commit with all fixes with the new membership decidability instance.

**Comment by Rob23oba** [comment]
I have found a workaround regarding `LawfulBEq.rfl`:
```lean
@[deprecated BEq.rfl (since := "2025-04-16")]
abbrev LawfulBEq.LawfulBEq.rfl := @BEq.rfl
export LawfulBEq (LawfulBEq.rfl)
```
It's not pretty but works, should we do something like this?

**Comment by Rob23oba** [comment]
awaiting-review

**Review by TwoFX — APPROVED** [review]
Nicely done, thanks!

**Comment by TwoFX** [comment]
> It's not pretty but works, should we do something like this?

That's a fun workaround. I think in this case it's fine to just skip the deprecation. Proper support for deprecating structure field is on the radar.
